US07538123B2
(3) 6-(Allyloxy)-2,2-dimethyl-3,4-dihydronaphthalen-1(2H)-one
830 μl of allyl bromide was added to a mixture consisting of 1.52 g of 6-hydroxy-3,4-dihydronaphthalen-1(2H)-one, 1.22 g of potassium carbonate, and 15 ml of N,N-dimethylformamide. The obtained mixture was stirred at room temperature under nitrogen atmosphere overnight. Water and ethyl acetate were added to the reaction solution, so as to obtain an organic layer. The obtained organic layer was successively washed with water (4 times) and a saturated sodium chloride solution, and then dried over anhydrous sodium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate), so as to obtain 1.69 g of the subject compound.

reactant | allyl bromide | 830 μl | C(C=C)Br | C3H5Br
reactant | 6-hydroxy-3,4-dihydronaphthalen-1(2H)-one | 1.52 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | potassium carbonate | 1.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 6-(Allyloxy)-2,2-dimethyl-3,4-dihydronaphthalen-1(2H)-one | 1.69 g | C(C=C)OC=1C=C2CCC(C(C2=CC1)=O)(C)C | C15H18O2
